US06960594B2
Compound XXVI: (3-Amino-2-(pyrimidin-2-ylamino)-propionic acid methyl ester bis hydrochloride salt.
Now referring to Scheme K, to Compound XXIII: thiophene-2,5-dicarboxylic acid monomethyl ester (923 mg, 4.96 mmol) in DMF (10 ml) was added 1-hydroxybenzotriazole (HOBT) (870 mg, 6.45 mmol) followed by 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrocloride (EDC) (1.23 g, 6.45 mmol) and (1.2 ml, 10.9 mmol) of NMM. Compound XXIV: N,N′-Bis-(Boc)-N″-(2-Amino-ethyl)-guanidine (6.45 mmol, 1.96 g) was then added in DMF(10 ml) to the reaction mixture which was then left to stir at room temperature for 16 hours. Solvent was evaporated and the residue was thrown in a 10% citric acid solution (50 ml) and extracted with ETOAC (3×70 ml). The organic phases were combined and washed with a saturated solution of NaHCO3 followed by a solution of Brine, dried over MgSO4 and evaporated. The crude residue was then purified by flash column chromatography using CH2Cl2/MeOH (10:0.2) to give the desired product (Compound XXVII) in 94% yield. 1H NMR (CDCl3, 400 MHz) δ 1.1-1.34 (m, 21H), 3.41-3.81 (m, 4H), 3.88 (s, 3H), 5.58-5.59 (d, 1H), 7.69-7.70 (d, 1H), 8.43-8.54 (broad s, 1H), 8.70-8.88 (m, 1H).

reactant | thiophene-2,5-dicarboxylic acid monomethyl ester | 4.96 mmol, 923 mg | COC(=O)C=1SC(=CC1)C(=O)O | C7H6O4S
reactant | 1-hydroxybenzotriazole | 6.45 mmol, 870 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrocloride | 6.45 mmol, 1.23 g | Cl.CN(CCCN=C=NCC)C
reactant | NMM | 10.9 mmol, 1.2 ml | CN1CCOCC1 | C5H11NO
reactant | N,N′-Bis-(Boc)-N″-(2-Amino-ethyl)-guanidine | 6.45 mmol, 1.96 g | C(=O)(OC(C)(C)C)NC(=NCCN)NC(=O)OC(C)(C)C | C13H26N4O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Amino-2-(pyrimidin-2-ylamino)-propionic acid methyl ester bis hydrochloride salt | 94% yield | Cl.Cl.COC(C(CN)NC1=NC=CC=N1)=O | InChI=1S/C8H12N4O2.2ClH/c1-14-7(13)6(5-9)12-8-10-3-2-4-11-8;;/h2-4,6H,5,9H2,1H3,(H,10,11,12);2*1H
